US07863291B2
To an ice bath-cooled solution of 5,6-diaminopyrimidin-4-ol (18 g, 143 mmol) in 3M sodium hydroxide (180 mL, 540 mmol), was added 3,3-dibromo-1,1,1-trifluoropropan-2-one (25.2 g, 93 mmol). The reaction was stirred for 3 days at ambient temperature. The solids were filtered, dissolved in 60% sulfuric acid (140 mL), and stirred at 135° C. for 8 h. The reaction was cooled, poured over ice and allowed to sit for 16 hours. The solution was neutralized to pH 8 with conc. ammonium hydroxide and extracted with ethyl acetate (5×100 mL), dried over sodium sulfate, filtered and concentrated. The solid residue was recrystallized from benzene/hexane to afford 5-(trifluoromethyl)pyrazin-2-amine (2.28 g, 14 mmol, 15% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.32 (1 H, s), 7.99 (1 H, d, J=1.26 Hz), 5.02 (2 H, br. s.). MS (LC/MS) R.T.=1.56; [M+H]+=164.03.

reactant | 5,6-diaminopyrimidin-4-ol | 143 mmol, 18 g | NC=1C(=NC=NC1N)O | C4H6N4O
reactant | sodium hydroxide | 540 mmol, 3M, 180 mL | [OH-].[Na+]
reactant | 3,3-dibromo-1,1,1-trifluoropropan-2-one | 93 mmol, 25.2 g | BrC(C(C(F)(F)F)=O)Br | C3HBr2F3O
product | 5-(trifluoromethyl)pyrazin-2-amine | 14 mmol, 2.28 g, 15% yield | FC(C=1N=CC(=NC1)N)(F)F | C5H4F3N3
